US07576135B2
4-(pyrrolidin-1-ylcarbonyl)benzoic acid methyl ester
The method described in Referential Example 492 was performed by use of pyrrolidine and terephthalic acid monomethyl chloride, whereby the title compound was obtained.

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | terephthalic acid monomethyl chloride | CCl.C(C1=CC=C(C(=O)O)C=C1)(=O)O
product | 4-(pyrrolidin-1-ylcarbonyl)benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(=O)N1CCCC1)=O | C13H15NO3
